US06437184B1
A mixture of 11.3 g of 4-(2-(2-tetrahydropyranyloxy)ethyl)-1-bromobenzene and 100 ml of tetrahydrofuran was cooled to −78° C., to which 25.9 ml of 1.56 M solution of n-butyl lithium in n-hexane was added dropwise over 15 minutes. After stirring at −78° C. for 1 hour, 4.2 ml of N,N-dimethylformamide was added dropwise at the same temperature over 15 minutes. After further stirring at −78° C. for 1 hour, 100 ml of saturated aqueous ammonium chloride solution was added, and the stirring was further continued until the reaction mixture came to room temperature. The reaction mixture was extracted twice with 200 ml of ethyl acetate, and the ethyl acetate layers were combined, washed three times with saturated aqueous ammonium chloride solution, and washed with saturated aqueous sodium chloride solution. The combined ethyl acetate layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give a residue. This residue was subjected to silica gel chromatography, which afforded 7.20 g (yield, 78%) of 4-(2-(2-tetrahydropyranyloxy)ethyl)-benzaldehyde, nD24.5 1.5311.

reactant | 4-(2-(2-tetrahydropyranyloxy)ethyl)-1-bromobenzene | 11.3 g | O1C(CCCC1)OCCC1=CC=C(C=C1)Br | C13H17BrO2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | n-hexane | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 4.2 ml | CN(C=O)C | C3H7NO
product | 4-(2-(2-tetrahydropyranyloxy)ethyl)-benzaldehyde | 7.20 g, 78% | O1C(CCCC1)OCCC1=CC=C(C=O)C=C1 | C14H18O3
